US04831151
0.89 g (5 mmol) of 1,3-diamino-4-(hydroxymethyl)-2-methylimidazolium chloride and 1.49 g (10 mmol) of 4-dimethylaminobenzaldehyde are dissolved in 20 ml of glacial acetic acid. After 22 hours the precipitated product is filtered off and recrystallized from ethanol. There is obtained 1,3-bis[[p-(dimethylamino)benzylidene]amino]-4-(hydroxymethyl)-2-methylimidazolium chloride of melting point 237° (dec.).

reactant | 1,3-diamino-4-(hydroxymethyl)-2-methylimidazolium chloride | 5 mmol, 0.89 g | [Cl-].N[N+]1=C(N(C(=C1)CO)N)C
reactant | 4-dimethylaminobenzaldehyde | 10 mmol, 1.49 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1,3-bis[[p-(dimethylamino)benzylidene]amino]-4-(hydroxymethyl)-2-methylimidazolium chloride | [Cl-].CN(C1=CC=C(C=N[N+]2=C(N(C(=C2)CO)N=CC2=CC=C(C=C2)N(C)C)C)C=C1)C | InChI=1S/C23H29N6O.ClH/c1-18-28(24-14-19-6-10-21(11-7-19)26(2)3)16-23(17-30)29(18)25-15-20-8-12-22(13-9-20)27(4)5;/h6-16,30H,17H2,1-5H3;1H/q+1;/p-1
